US04791127
Synthesis Example 9: Preparation of 2-sec-butylsulfinyl-4-methylsulfonyloxy-1,3-thiazole (No. 203):
4.0 g of 2-sec-butylthio-4-methylsulfonyloxy-1,3-thiazole was dissolved in 15 ml of acetic acid, and 2.2 ml of 35% aqueous hydrogen peroxide was added to the solution at room temperature, followed by reaction at 30° to 40° C. for 4 hours. The reaction mixture was poured into chilled water, neutralized by 5% aqueous solution of sodium hydroxide, and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of common salt, dried over anhydrous sodium sulfate and concentrated to obtain an oil, which was purified by silica-gel column chromatography to 2.1 g of the objective compound as a pale yellow oil (yield: 49.7%).

reactant | 2-sec-butylthio-4-methylsulfonyloxy-1,3-thiazole | 4.0 g | C(C)(CC)SC=1SC=C(N1)OS(=O)(=O)C | C8H13NO3S3
reactant | hydrogen peroxide | 2.2 ml | OO | H2O2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-sec-butylsulfinyl-4-methylsulfonyloxy-1,3-thiazole | 2.1 g, yield: 49.7% | C(C)(CC)S(=O)C=1SC=C(N1)OS(=O)(=O)C | C8H13NO4S3
